US07888364B2
3-Amino-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide (30 mg, 0.072 mmol) was reacted with acetyl chloride (5.6 μl, 0.079 mol) via procedure V to afford 19 mg of 3-acetamido-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide as a white solid. MS (Q1) 458 (M)+.

reactant | 3-Amino-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide | 0.072 mmol, 30 mg | NC=1C=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC1CS(=O)(=O)C | C20H18ClN3O3S
reactant | acetyl chloride | 0.079 mol, 5.6 μl | C(C)(=O)Cl | C2H3ClO
product | 3-acetamido-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide | 19 mg | C(C)(=O)NC=1C=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC1CS(=O)(=O)C | C22H20ClN3O4S
